US06291685B1
2-Imino-5-[4-[2-(5-methyl -2-phenyl-oxazole-4yl)-ethoxy]-benzothiophene-7-yl]-methyl-thiazolidine-4-one
190 g (0.380 mol) of 5-methyl-4-[2-(7-amino-benzothiophene-4-yloxy)-ethyl]-2-phenyl-oxazole were suspended in 2.85 1 of ethanol. 31.6 g (0.415 mol) of thiourea and 34.8 g of sodium acetate were added. After boiling for about 18 hours (reflux) the reaction mixture was cooled to 0 to 4° C. and stirred for 1.5 hours at this temperature. The precipitate was filtered with suction and washed twice with 250 mnl cold ethanol. 1.91 of water was added to the residue, the mixture was stirred for 10 minutes and the precipitate was filtered with suction and dried for 24 hours at 80° C. (vacuum).

reactant | 5-methyl-4-[2-(7-amino-benzothiophene-4-yloxy)-ethyl]-2-phenyl-oxazole | 0.380 mol, 190 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C2=C1C=CS2)N | C20H18N2O2S
reactant | thiourea | 0.415 mol, 31.6 g | NC(=S)N | CH4N2S
reactant | sodium acetate | 34.8 g | C(C)(=O)[O-].[Na+]
reactant | ethanol | C(C)O | C2H6O
product | 2-Imino-5-[4-[2-(5-methyl -2-phenyl-oxazole-4yl)-ethoxy]-benzothiophene-7-yl]-methyl-thiazolidine-4-one | N=C1SC(C(N1C)=O)C1=CC=C(C=2C=CSC21)OCCC=2N=C(OC2C)C2=CC=CC=C2 | C24H21N3O3S2
